US08426449B2
Step 2: [3-(2-Ethylaminomethyl-4-trifluoromethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 3, Step 2, using the following starting materials: [3-(2-formyl-4-trifluoromethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and ethylamine (2M in THF).

reactant | [3-(2-formyl-4-trifluoromethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C19H17F3O5
reactant | ethylamine | 2M | C(C)N | C2H7N
product | [3-(2-Ethylaminomethyl-4-trifluoromethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO4
